US09193734B2
Synthesis of 1-(4-chlorobenzyl)-3-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethoxy)urea (Compound II-99)
According to the procedure described in the synthesis method of Compound II-15, 2-(3-(4-chlorobenzyl)ureidooxy)acetic acid (Compound VI-11) 108 mg (0.42 mmol) was coupled with (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-N-(quinolin-8-ylmethyl)-propanamide (Compound IV-11) 100 mg (0.28 mmol) to obtain the title compound.

reactant | 2-(3-(4-chlorobenzyl)ureidooxy)acetic acid | 0.42 mmol, 108 mg | ClC1=CC=C(CNC(NOCC(=O)O)=O)C=C1 | C10H11ClN2O4
reactant | (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-N-(quinolin-8-ylmethyl)-propanamide | 0.28 mmol, 100 mg | N[C@H](C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C)C | C20H29N3O3
product | 1-(4-chlorobenzyl)-3-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethoxy)urea | ClC1=CC=C(CNC(=O)NOCC(=O)N[C@H](C(=O)N(CC=2C=CC=C3C=CC=NC23)[C@H](C(OCC)OCC)C)C)C=C1 | C30H38ClN5O6
